US06200999B1
3-[4-(Bromomethyl)-3-ethoxyisoxazol-5-yl]-1-trityl-1H-1,2,4-triazole
A mixture of 3-(3-ethoxy-4-methylisoxazol-5-yl)-1-trityl-1H-1,2,4-triazole (2.4 g, 5.5 mmol) and NBS (1.1 g, 6.2 mmol) in tetrachloromethane (150 mL) was boiled under reflux for 3 h. The reaction mixture was cooled, filtered and concentrated in vacuo to give crude title compound (2.8 g). The crude product was used in the next step without further purification.

reactant | 3-(3-ethoxy-4-methylisoxazol-5-yl)-1-trityl-1H-1,2,4-triazole | 5.5 mmol, 2.4 g | C(C)OC1=NOC(=C1C)C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H24N4O2
reactant | NBS | 6.2 mmol, 1.1 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | tetrachloromethane | 150 mL | ClC(Cl)(Cl)Cl | CCl4
product | 3-[4-(Bromomethyl)-3-ethoxyisoxazol-5-yl]-1-trityl-1H-1,2,4-triazole | 2.8 g | BrCC=1C(=NOC1C1=NN(C=N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)OCC | C27H23BrN4O2
